US07091228B2
2-Chloro-5-fluoro-1,3-benzothiazole
Sulfuryl chloride (50 μL, 0.65 mmol) was added neat to 5-fluoro-1,3-benzothiazole-2-thiol (100 mg, 0.54 mmol). The mixture was stirred at ambient temperature for 1 h, then heated at 60° C. for 30 minutes. The resulting solution was cooled to rt, and poured onto ice. The title compound was collected by filtration, washed with water, and dried under vacuum. The solid obtained was used without further purification; LC-MS m/z 188.1 (MH+), ret. time 3.27 min.

reactant | Sulfuryl chloride | 0.65 mmol, 50 μL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 5-fluoro-1,3-benzothiazole-2-thiol | 0.54 mmol, 100 mg | FC=1C=CC2=C(N=C(S2)S)C1 | C7H4FNS2
product | 2-Chloro-5-fluoro-1,3-benzothiazole | ClC=1SC2=C(N1)C=C(C=C2)F | C7H3ClFNS
